US08486962B2
To a mixture of 4-nitrobenzyl bromide (4 g, 18.5 mmol) and potassium carbonate (7.65 g, 55.5 mmol) in acetonitrile (50 ml) at 0-5° C. was added 40% aqueous dimethyl amine solution (1.5 eq). After 1 hr at room temperature, the solvent was evaporated; the crude material was dissolved in water and extracted with ethyl acetate. The organic layer was dried and concentrated to give dimethyl-(4-nitro-benzyl)-amine (2.8 g, 84%)

reactant | 4-nitrobenzyl bromide | 18.5 mmol, 4 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | potassium carbonate | 55.5 mmol, 7.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl amine | 1.5 eq | CNC | C2H7N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | dimethyl-(4-nitro-benzyl)-amine | 2.8 g, 84% | CN(CC1=CC=C(C=C1)[N+](=O)[O-])C | C9H12N2O2
